US04435406
To 3.7 g of 1,8-dihydro-m-dioxino(4,5-f)benzimidazole-2-thiol, suspended in 60 ml of alcohol, were added dropwise while stirring 1.5 g of sodium hydroxide in 30 ml of water and, after 30 minutes, there were added 3.4 g of 5-methyl-2-chloromethylpyridine hydrochloride. The mixture was left to boil at reflux overnight, then evaporated and the residue was taken up in methylene chloride. This mixture was washed first with 3 N sodium hydroxide, then neutral with water, dried over sodium sulfate and evaporated in vacuo. The crude product was dissolved while heating in a small amount of methanol and treated with 25 ml of 5 N hydrochloric acid in ethylacetate. There was obtained 1,8-dihydro-2-[[(5-methyl-2-pyridyl)methyl]thio]-m-dioxino(4,5-f)benzimidazole dihydrochloride of melting point 153°-155° C.

reactant | 1,8-dihydro-m-dioxino(4,5-f)benzimidazole-2-thiol | 3.7 g | N1C(=NC2=C1C=C1C(=C2)OCOC1)S | C9H8N2O2S
reactant | sodium hydroxide | 1.5 g | [OH-].[Na+]
reactant | 5-methyl-2-chloromethylpyridine hydrochloride | 3.4 g | Cl.CC=1C=CC(=NC1)CCl
solvent | water | 30 ml | O | H2O
product | 1,8-dihydro-2-[[(5-methyl-2-pyridyl)methyl]thio]-m-dioxino(4,5-f)benzimidazole dihydrochloride | Cl.Cl.CC=1C=CC(=NC1)CSC1=NC2=C(N1)C=C1C(=C2)OCOC1 | InChI=1S/C16H15N3O2S.2ClH/c1-10-2-3-12(17-6-10)8-22-16-18-13-4-11-7-20-9-21-15(11)5-14(13)19-16;;/h2-6H,7-9H2,1H3,(H,18,19);2*1H
